US04639453
1-(4-Amino-6,7-dimethoxyquinazolin-2-yl)-4-(3-oxo-5,5-dimethyl-1-cyclohexen-1-yl)-piperazine
A mixture of 2.9 g (0.01 mol) of 2-piperazino-4-amino-6,7-dimethoxyquinazoline, 1.4 g (0.01 mol) of dimedone and 20 ml of toluene is heated at the boiling point under reflux for 4 hours, using a water separator. After cooling the solution, the reaction product precipitates. It is washed with petroleum ether and recrystallised from 220 ml of acetonitrile. 2.6 g of melting point 185°-187° C. are obtained.

reactant | 2-piperazino-4-amino-6,7-dimethoxyquinazoline | 0.01 mol, 2.9 g | N1(CCNCC1)C1=NC2=CC(=C(C=C2C(=N1)N)OC)OC | C14H19N5O2
reactant | dimedone | 0.01 mol, 1.4 g | CC1(CC(=O)CC(=O)C1)C | C8H12O2
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 1-(4-Amino-6,7-dimethoxyquinazolin-2-yl)-4-(3-oxo-5,5-dimethyl-1-cyclohexen-1-yl)-piperazine | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C1=CC(CC(C1)(C)C)=O | C22H29N5O3
